US08466186B2
(a) 5-Chloro-2-methylamino-4-(4-(4-trifluoromethylphenyl)piperazin-1-yl)aniline
A mixture of 4-chloro-N-methyl-2-nitro-5-(4-(4-trifluoromethylphenyl)-piperazin-1-yl)aniline (200 mg, 0.48 mmol), Ra—Ni (20 mg; 0.34 mmol) and THF (8 mL) was shaken under H2 atmosphere (1 atm) at rt for 4 h. The mixture was filtered through celite and the resulting solution was used immediately used in the next step.

reactant | 4-chloro-N-methyl-2-nitro-5-(4-(4-trifluoromethylphenyl)-piperazin-1-yl)aniline | 0.48 mmol, 200 mg | ClC1=CC(=C(NC)C=C1N1CCN(CC1)C1=CC=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C18H18ClF3N4O2
catalyst | Ra—Ni | 0.34 mmol, 20 mg | [Ni] | Ni
solvent | THF | 8 mL | C1CCOC1 | C4H8O
product | 5-Chloro-2-methylamino-4-(4-(4-trifluoromethylphenyl)piperazin-1-yl)aniline | ClC=1C(=CC(=C(N)C1)NC)N1CCN(CC1)C1=CC=C(C=C1)C(F)(F)F | C18H20ClF3N4
